US08119692B2
(2S,4R)-methyl 2-(2-(4-(4-fluoro-3-methylbenzyl)piperazin-1-yl)ethyl)-4-(4-fluorophenyl)-4-methoxybutanoate (Intermediate C8)
To a solution of (2S,4R)-methyl 4-(4-fluorophenyl)-4-methoxy-2-(2-(piperazin-1-yl)ethyl)butanoate (62 mg, 0.11 mmol) and 4-Fluoro-3-methyl-benzaldehyde (19.3 mg, 0.14 mmol) was added NaBH(OAc)3 (32.5 mg, 0.15 mmol) and AcOH (6.6 mg, 6 μL, 0.11 mmol) at room temperature. The mixture was stirred for 8 h at the room temperature. The reaction was quenched by pouring into 20 mL 5% aqueous NaOH and diluted with ethylacetate. The mixture was extracted with more ethyl acetate (3×15 mL) and the combined organic layers washed with brine (2×10 mL) and dried over Na2SO4. The mixture was concentrated under reduced pressure and the crude product was used directly in the next reaction without further purification.

reactant | (2S,4R)-methyl 4-(4-fluorophenyl)-4-methoxy-2-(2-(piperazin-1-yl)ethyl)butanoate | 0.11 mmol, 62 mg | FC1=CC=C(C=C1)[C@@H](C[C@@H](C(=O)OC)CCN1CCNCC1)OC | C18H27FN2O3
reactant | 4-Fluoro-3-methyl-benzaldehyde | 0.14 mmol, 19.3 mg | FC1=C(C=C(C=O)C=C1)C | C8H7FO
reactant | NaBH(OAc)3 | 0.15 mmol, 32.5 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | AcOH | 0.11 mmol, 6 μL, 6.6 mg | CC(=O)O | C2H4O2
product | (2S,4R)-methyl 2-(2-(4-(4-fluoro-3-methylbenzyl)piperazin-1-yl)ethyl)-4-(4-fluorophenyl)-4-methoxybutanoate | FC1=C(C=C(CN2CCN(CC2)CC[C@H](C(=O)OC)C[C@@H](OC)C2=CC=C(C=C2)F)C=C1)C | C26H34F2N2O3
